US20010007873A1
EXAMPLE 21 6-[2-CYCLOBUTYL4-(2-DIMETHYLAMINO-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE
Prepared as in Example 14G using 4-(6-amino-pyridin-2-yl)-3-cyclobutyl-phenol and 2-dimethylaminoethyl chloride, as a pale yellow oil in 77% yield.

reactant | 4-(6-amino-pyridin-2-yl)-3-cyclobutyl-phenol | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CCC1 | C15H16N2O
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
product | 6-[2-CYCLOBUTYL4-(2-DIMETHYLAMINO-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE | 77% yield | C1(CCC1)C1=C(C=CC(=C1)OCCN(C)C)C1=CC=CC(=N1)N | C19H25N3O
